US07700638B2
7-(3-(1-Morpholinylmethyl)phenyl)-1-phenyl-5-trifluoromethylbenzimidazole
This was prepared analogeously to the above product from 7-(3-(chloromethyl)phenyl)-1-phenyl-5-trifluoromethylbenzimidazole (0.97 g, 2.5 mmol) and morpholine (0.74 ml, 7.5 mmol) in NMP (5 ml) to yield 0.81 g (74%), m/z, 382.1 (M+H)+.

reactant | 7-(3-(chloromethyl)phenyl)-1-phenyl-5-trifluoromethylbenzimidazole | 2.5 mmol, 0.97 g | ClCC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C21H14ClF3N2
reactant | morpholine | 7.5 mmol, 0.74 ml | N1CCOCC1 | C4H9NO
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | 7-(3-(1-Morpholinylmethyl)phenyl)-1-phenyl-5-trifluoromethylbenzimidazole | N1(CCOCC1)CC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C25H22F3N3O
